US07491710B2
A solution of 20 mg of 3-styryl-1H-indazol-5-ol, 5.76 mg of imidazole and 20.7 mg of methylphenylphosphinic chloride in 5 ml of dichloromethane is stirred at ambient temperature. After stirring for approximately one hour, 5.76 mg of imidazole and 20.7 mg of methylphenylphosphinic chloride are added. The suspension is stirred at ambient temperature for approximately 18 hours. 10 mg of imidazole and 70 mg of methylphenylphosphinic chloride are added. After 30 hours at ambient temperature, the reaction medium is treated with 10 ml of distilled water. The aqueous phase is extracted with 2×10 ml of dichloromethane. The organic phase is dried over magnesium sulfate and concentrated under reduced pressure in a rotary evaporator. The reaction crude is purified by preparative LC/MS to obtain 9.1 mg of methylphenylphosphinic acid 3-((E)-styryl)-1H-indazol-5-yl ester.

reactant | 3-styryl-1H-indazol-5-ol | 20 mg | C(=CC1=CC=CC=C1)C1=NNC2=CC=C(C=C12)O | C15H12N2O
reactant | imidazole | 5.76 mg | N1C=NC=C1 | C3H4N2
reactant | methylphenylphosphinic chloride | 20.7 mg | CP(=O)(C1=CC=CC=C1)Cl | C7H8ClOP
reactant | imidazole | 5.76 mg | N1C=NC=C1 | C3H4N2
reactant | methylphenylphosphinic chloride | 20.7 mg | CP(=O)(C1=CC=CC=C1)Cl | C7H8ClOP
reactant | imidazole | 10 mg | N1C=NC=C1 | C3H4N2
reactant | methylphenylphosphinic chloride | 70 mg | CP(=O)(C1=CC=CC=C1)Cl | C7H8ClOP
reactant | water | 10 ml | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | methylphenylphosphinic acid 3-((E)-styryl)-1H-indazol-5-yl ester | 9.1 mg | C(=C\C1=CC=CC=C1)/C1=NNC2=CC=C(C=C12)OP(=O)(C1=CC=CC=C1)C | C22H19N2O2P
